US07691863B2
a) 5-Morpholin-4-yl-pyrazine-2-carboxylic acid methyl ester
A mixture of 4.9 g (28 mmol) 5-chloro-pyrazine-2-carboxylic acid methyl ester (commercially available), 3.2 g (37 mmol) morpholine and 7.37 g (73 mmol) NEt3 in 50 mL dioxane was heated to 45° C. for 16 h. Water and NaCl aq. was added and the mixture was extracted with ethyl acetate. The combined organic layers were washed with NaCl aq., dried with MgSO4, filtered and evaporated. The residue was recrystallized from ethyl acetate to yield 5.65 g (89%) of the title compound as white solid. m/z (ES+): 224.3 (M+H).

reactant | 5-chloro-pyrazine-2-carboxylic acid methyl ester | 28 mmol, 4.9 g | COC(=O)C1=NC=C(N=C1)Cl | C6H5ClN2O2
reactant | morpholine | 37 mmol, 3.2 g | N1CCOCC1 | C4H9NO
reactant | NEt3 | 73 mmol, 7.37 g | CCN(CC)CC | C6H15N
reactant | NaCl | [Na+].[Cl-]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 5-Morpholin-4-yl-pyrazine-2-carboxylic acid methyl ester | 5.65 g, 89% | COC(=O)C1=NC=C(N=C1)N1CCOCC1 | C10H13N3O3
